* Schematics Netlist *



R_R1         $N_0002 $N_0001  4  
C_C1         $N_0003 $N_0002  50uF IC=0 
V_V4         0 $N_0003  
+SIN 0 10V 159Hz 0 0 0
L_L1         $N_0001 0  8mH IC=0 
C_Cx         $N_0002 0  83.3uF IC=0 
