* Schematics Netlist *



L_L         $N_0001 0  8mH IC=0 
R_R         $N_0002 $N_0001  4  
C_C_X         $N_0002 0  83.3uF IC=0 
C_C         $N_0003 $N_0002  50uF IC=0 
V_U_S         $N_0003 0  
+SIN 0 10 159Hz 0 0 0
